US05017579
(c) 1-{4-[3-(Di-n-butylamino)propyloxy]phenylthio}-2-isopropylindolizine oxalate
Into a solution of 0.01 mol of 1-[(4-hydroxyphenyl)thio]-2-isopropylindolizine in 80 ml of dimethylsulphoxide, there were added 5 g of anhydrous potassium carbonate and 0.015 mol of 1-chloro-di-n-butylamino-propane. The reaction medium was maintained under stirring for 24 hours and then poured into 500 ml of water. The solution was extracted with diethyl ether and the organic phase was washed with water, dried on sodium sulphate, filtered and evaporated to dryness to obtain the desired product in basic form. This crude compound was dissolved in dry diethyl ether and a solution of oxalic acid in diethyl ether was added.

reactant | 1-[(4-hydroxyphenyl)thio]-2-isopropylindolizine | 0.01 mol | OC1=CC=C(C=C1)SC=1C(=CN2C=CC=CC12)C(C)C | C17H17NOS
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-di-n-butylamino-propane | 0.015 mol | ClC(CC)N(CCCC)CCCC | C11H24ClN
reactant | water | 500 ml | O | H2O
solvent | dimethylsulphoxide | 80 ml | CS(=O)C | C2H6OS
product | 1-{4-[3-(Di-n-butylamino)propyloxy]phenylthio}-2-isopropylindolizine oxalate | C(C(=O)O)(=O)O.C(CCC)N(CCCOC1=CC=C(C=C1)SC=1C(=CN2C=CC=CC12)C(C)C)CCCC | InChI=1S/C28H40N2OS.C2H2O4/c1-5-7-17-29(18-8-6-2)19-11-21-31-24-13-15-25(16-14-24)32-28-26(23(3)4)22-30-20-10-9-12-27(28)30;3-1(4)2(5)6/h9-10,12-16,20,22-23H,5-8,11,17-19,21H2,1-4H3;(H,3,4)(H,5,6)
